US08193359B2
4-[5-(4-Cyanofuro[3,2-c]pyridin-2-yl)-[1,2,4]oxadiazol-3-ylmethyl]piperidine-1-carboxylic acid isobutyl ester
i-BuOCOCl (19 μL, 146 μmol) and NEt3 (15 μL, 107 μmol) were added to a stirred solution of 2-(3-piperidin-4-ylmethyl-[1,2,4]oxadiazol-5-yl)furo[3,2-c]pyridine-4-carbonitrile (Preparation 15, 30 mg, 97 μmol) in anhydrous CH2Cl2 (1.5 mL). After 30 min, the reaction mixture was diluted with Et2O (10 mL) and H2O (2 mL). The organic layer was washed with saturated aqueous Na2CO3 (2 mL), H2O (2 mL), and brine (2 mL), before being dried (MgSO4). Filtration, solvent evaporation, and column chromatography (EtOAc) furnished the title compound: RT=3.95 min; m/z (ES+)=410.1 [M+H]+.

reactant | i-BuOCOCl | 146 μmol, 19 μL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | NEt3 | 107 μmol, 15 μL | CCN(CC)CC | C6H15N
reactant | 2-(3-piperidin-4-ylmethyl-[1,2,4]oxadiazol-5-yl)furo[3,2-c]pyridine-4-carbonitrile | 97 μmol, 30 mg | N1CCC(CC1)CC1=NOC(=N1)C1=CC=2C(=NC=CC2O1)C#N | C16H15N5O2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 10 mL | CCOCC | C4H10O
solvent | H2O | 2 mL | O | H2O
product | 4-[5-(4-Cyanofuro[3,2-c]pyridin-2-yl)-[1,2,4]oxadiazol-3-ylmethyl]piperidine-1-carboxylic acid isobutyl ester | C(C(C)C)OC(=O)N1CCC(CC1)CC1=NOC(=N1)C1=CC=2C(=NC=CC2O1)C#N | C21H23N5O4
